US07576063B2
3-(β-D-Glucopyranosyloxy)-4-[(4-methylthiophenyl)methyl]-1H-pyrazole
To a suspension of 4-[(4-methylthiophenyl)methyl]-5-phenyl-1,2-dihydro-3H-pyrazole-3-one (0.087 g), acetobromo-α-D-glucose (0.62 g) and benzyltri(n-butyl)ammonium bromide (0.054 g) in dichloromethane (3 mL) was added a sodium hydroxide aqueous solution (5 mol/L, 0.9 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: tetrahydrofuran). The obtained semi purified 4-[(4-methylthiophenyl)methyl]-3-(2,3,4,6-tetraacethyl-β-D-glucopyranosyloxy)-1H-pyrazole was dissolved in methanol (5 mL), and sodium methoxide (28% methanol solution, 0.28 mL) was added to the solution. The mixture was stirred at room temperature for 2 hours. Acetic acid (0.090 g) was added to the reaction mixture, and the solvent was removed. Water (5 mL) was added to the residue, and the mixture was purified by solid phase extraction on ODS (washing solvent: water/methanol=5/1, eluent: methanol). Column chromatography on silica gel (eluent: dichloromethane/methanol=20/1-7/1) was used for further purification to give the title compound (0.033 g).

reactant | 4-[(4-methylthiophenyl)methyl]-5-phenyl-1,2-dihydro-3H-pyrazole-3-one | 0.087 g | CSC1=CC=C(C=C1)CC=1C(NNC1C1=CC=CC=C1)=O | C17H16N2OS
reactant | acetobromo-α-D-glucose | 0.62 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 5 mol/L, 0.9 mL | [OH-].[Na+]
catalyst | benzyltri(n-butyl)ammonium bromide | 0.054 g | [Br-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(β-D-Glucopyranosyloxy)-4-[(4-methylthiophenyl)methyl]-1H-pyrazole | 0.033 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC=C1CC1=CC=C(C=C1)SC | C17H22N2O6S
